US07691882B2
3-(3-(4-(5-Methyl-furan-2-ylmethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a mixture of (4-(5-methyl-furan-2-ylmethyl)-phenyl)-acetohydroximoyl chloride (11 mg, 0.043 mmol) described in Manufacturing Example 46-1-6 and tetrahydrofuran (1 mL) were added 3-ethynyl-pyridin-2-ylamine (4.0 mg, 0.034 mmol) described in Manufacturing Example 1-2-3 and triethylamine (9.4 μL, 0.068 mmol) at room temperature, which was stirred for 3 hours at 45° C. The reaction mixture was cooled to room temperature, water was added at the same temperature, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:3) to obtain the title compound (5.1 mg, 41%).

reactant | (4-(5-methyl-furan-2-ylmethyl)-phenyl)-acetohydroximoyl chloride | 0.043 mmol, 11 mg | CC1=CC=C(O1)CC1=CC=C(C=C1)CC(=NO)Cl | C14H14ClNO2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-pyridin-2-ylamine | 0.034 mmol, 4.0 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 0.068 mmol, 9.4 μL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 3-(3-(4-(5-Methyl-furan-2-ylmethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 5.1 mg, 41% | CC1=CC=C(O1)CC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H19N3O2
